US04343942
1-Hydroxy-2-Methylbenzimidazole-3-Oxide
To a mixture containing nitroethane (9.0 g., 0.12 moles), benzofuroxan (13.6 g., 0.10 moles) and tetrahydrofuran (50 ml.) is added dropwise diethylamine (8.7 g., 0.12 moles). The reaction temperature rises almost to reflux upon addition. Upon completion, the mixture is allowed to cool and to stand overnight.

reactant | nitroethane | 0.12 moles, 9.0 g | [N+](=O)([O-])CC | C2H5NO2
reactant | benzofuroxan | 0.10 moles, 13.6 g | C1=CC2=NO[N+](=C2C=C1)[O-] | C6H4N2O2
reactant | diethylamine | 0.12 moles, 8.7 g | C(C)NCC | C4H11N
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 1-Hydroxy-2-Methylbenzimidazole-3-Oxide | ON1C(=[N+](C2=C1C=CC=C2)[O-])C | C8H8N2O2
